US09382228B2
A solution of 2-methyl-5-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)thiazole (0.094 g, 0.286 mmol) in MeOH (30 mL) was flushed with Ar, treated with 10% Pd/C (50% wet, 0.305 g, 0.286 mmol) and hydrogenated (1 atm) overnight. The solids were removed via filtration through diatomaceous earth, washed well with MeOH and the filtrate was concentrated to dryness to afford 6-methyl-5-((2-(2-methylthiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (60 mg, 70%). 1H NMR (400 MHz, DMSO-d6): δ 8.34 (d, J=5.8 Hz, 1H), 8.28 (s, 1H), 7.49 (d, J=2.4 Hz, 1H), 7.19 (d, J=8.7 Hz, 1H), 6.58 (dd, J=5.8, 2.4 Hz, 1H), 6.34 (d, J=8.7 Hz, 1H), 5.96 (s, 2H), 2.65 (s, 3H), 2.07 (s, 3H); MS (ESI) m/z: 299.1 (M+H+).

reactant | 2-methyl-5-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)thiazole | 0.286 mmol, 0.094 g | CC=1SC(=CN1)C1=NC=CC(=C1)OC=1C(=NC(=CC1)[N+](=O)[O-])C | C15H12N4O3S
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.286 mmol, 0.305 g | [Pd] | Pd
product | 6-methyl-5-((2-(2-methylthiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 60 mg, 70% | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C1=CN=C(S1)C | C15H14N4OS
